US05294626
5-(4-(2-(4-Chlorobenzenesulphonylamino)ethyl)phenyl)-5-(3-pyridyl)pentanoic acid
Prepared analogously to Example 10e from 5-(4-(2-aminoethyl)phenyl)-5-(3-pyridyl)pentanoic acid and 4-chlorobenzenesulphonic acid chloride.

reactant | 5-(4-(2-aminoethyl)phenyl)-5-(3-pyridyl)pentanoic acid | NCCC1=CC=C(C=C1)C(CCCC(=O)O)C=1C=NC=CC1 | C18H22N2O2
reactant | 4-chlorobenzenesulphonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 5-(4-(2-(4-Chlorobenzenesulphonylamino)ethyl)phenyl)-5-(3-pyridyl)pentanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)C(CCCC(=O)O)C=1C=NC=CC1 | C24H25ClN2O4S
